US04048326
Acetyl chloride (1.66 g; 0.0212 mole) was added dropwise during five minutes to a stirred suspension of 3,4-bis-(3-methoxycarbonyl-2-thioureido)aniline (4.0 g; 0.0112 mole) and sodium bicarbonate (1.78 g; 0.0212 mole) in dry acetone (50 ml). The temperature of the reaction mixture rose spontaneously to 30° C. After completion of the addition, the mixture was refluxed with stirring for 6 hours, cooled and poured into water. The solid which separated was filtered off, washed well with water and crystallised from ethanol to give 4-acetamido-1,2-bis-(3-methoxycarbonyl-2-thioureido)benzene, m.p. 183°-185° C. (with decomposition).

reactant | Acetyl chloride | 0.0212 mole, 1.66 g | C(C)(=O)Cl | C2H3ClO
reactant | 3,4-bis-(3-methoxycarbonyl-2-thioureido)aniline | 0.0112 mole, 4.0 g | COC(=O)NC(NC=1C=C(N)C=CC1NC(=S)NC(=O)OC)=S | C12H15N5O4S2
reactant | sodium bicarbonate | 0.0212 mole, 1.78 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-acetamido-1,2-bis-(3-methoxycarbonyl-2-thioureido)benzene | C(C)(=O)NC1=CC(=C(C=C1)NC(=S)NC(=O)OC)NC(=S)NC(=O)OC | C14H17N5O5S2
